US06462032B1
5-Bromo-4-methyl-2-thiophene Carboxaldehyde.
To a solution of diethylamine (28 g, 0.383 mol) in anhydrous THF (400 mL) was added at −40° C. under nitrogen a solution of n-BuLi (2.5 M, 153 mL, 0.383 mol) in hexane. After addition, the solution was stirred at −40° C. under nitrogen for 30 minutes, cooled to −78° C. and treated dropwise with a solution of 2-bromo-3-methylthiophene (45 g, 0.254 mol) in anhydrous THF (450 mL). The reaction solution was stirred at −78° C. for 30 minutes and treated with anhydrous DMF (100 mL). The mixture was allowed to warm to ambient temperature and was quenched with 1N aqueous hydrochloride solution (1L). The solution was extracted with ethyl acetate(3×450 mL). The extracts were washed with water, brine and dried (MgSO4). After removal of solvent in vacuo, the subtitled compound was obtained as a white solid (46 g, 88.3%). A sample of the product was crystallized from hexane: mp 63-65° C.; IR (KBr) 1654 cm−1. 1H-NMR (CDCl3) δ 9.75 (s, 1H), 7.45 (s, 1H), 2.26 (s, 3H); MS (EI) m/z 204/206 (M30 ). Anal. Calc. For C6H5BrOS: C, 35.14; H, 2.46. Found: C, 35.00; H, 2.44.

reactant | diethylamine | 0.383 mol, 28 g | C(C)NCC | C4H11N
reactant | n-BuLi | 0.383 mol, 2.5 M, 153 mL | [Li]CCCC
reactant | 2-bromo-3-methylthiophene | 0.254 mol, 45 g | BrC=1SC=CC1C | C5H5BrS
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 450 mL | C1CCOC1 | C4H8O
product | 5-Bromo-4-methyl-2-thiophene Carboxaldehyde | BrC1=C(C=C(S1)C=O)C | C6H5BrOS
